US06130238
6-Trifluoromethyl-2-oxindole
Methyl 2-nitro-4-trifluoromethylphenylacetate (26 mg) was hydrogenated over 10% palladium on carbon and then heated at 100° C. for 3 hours. The catalyst was removed by filtration and the solvent evaporated to give the title compound.

reactant | Methyl 2-nitro-4-trifluoromethylphenylacetate | 26 mg | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)CC(=O)OC | C10H8F3NO4
catalyst | palladium on carbon | [Pd] | Pd
product | 6-Trifluoromethyl-2-oxindole | FC(C1=CC=C2CC(NC2=C1)=O)(F)F | C9H6F3NO
